US07390910B2
tert-butyl methyl[(1S)-2-methyl-1-(4-morpholinylcarbonyl)-2-phenylpropyl]carbamate
To a cooled (0°C., ice bath) solution of (2S)-2-[(tert-butoxycarbonyl)(methyl)amino]-3-methyl-3-phenylbutanoic acid (1.0 g, 3.30 mmol, WO 99/32509) and benzotriazole-1-yl-oxy-tris-pyrrolidinophosphonium hexafluorophosphate (1.46 g, 3.30 mmol) in anhydrous dichloromethane (5 ml) is added diisopropylethylamine (1.15 ml, 6.60 mmol) under an inert atmosphere. To this solution is added a solution of morpholine (0.313 ml, 3.60 mmol) in dichloromethane (2.5 ml). After stirring at 0° C. for 5-10 minutes, the cooling bath is removed, and the resulting reaction mixture is stirred at room temperature for 15-20 hours. The mixture is diluted with water, and the aqueous layer is extracted with ethyl acetate (3 times). The combined extracts are washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated in vacuo. The residue is chromatographed (silica gel, flash column), to give a dark yellow oil. (0.943 g, 76%) MS [M+H] 377.2

reactant | (2S)-2-[(tert-butoxycarbonyl)(methyl)amino]-3-methyl-3-phenylbutanoic acid | 3.30 mmol, 1.0 g | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)C(C)(C1=CC=CC=C1)C)C | C17H25NO4
reactant | benzotriazole-1-yl-oxy-tris-pyrrolidinophosphonium hexafluorophosphate | 3.30 mmol, 1.46 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | diisopropylethylamine | 6.60 mmol, 1.15 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | morpholine | 3.60 mmol, 0.313 ml | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | tert-butyl methyl[(1S)-2-methyl-1-(4-morpholinylcarbonyl)-2-phenylpropyl]carbamate | CN(C(OC(C)(C)C)=O)[C@@H](C(C)(C1=CC=CC=C1)C)C(=O)N1CCOCC1 | C21H32N2O4
